US04366153
A solution of 2-[2-(2,2,2-trifluoroacetamido)thiazol-4-yl]-2-cyclopentyloxyiminoacetic acid (syn isomer, 1.6 g.), dry N,N-dimethylformamide (0.4 g.), phosphoryl chloride (0.8 g.), dry ethyl acetate (1.6 ml.) and tetrahydrofuran (20 ml.), and a solution of 7-amino-3-[1-(2-hydroxyethyl)-1H-tetrazol-5-yl-thiomethyl]-3-cephem-4-carboxylic acid (1.5 g.), trimethylsilylacetamide (3.8 g.) and dry ethyl acetate (30 ml.) were treated in a similar manner to that of Example 1-(1) to give 7-[2-[2-(2,2,2-trifluoroacetamido)thiazol-4-yl]-2-cyclopentyloxyiminoacetamido]-3-[1-(2-hydroxyethyl)-1H-tetrazol-5-ylthiomethyl]-3-cephem-4-carboxylic acid (syn isomer, 2.63 g.).

reactant | 2-[2-(2,2,2-trifluoroacetamido)thiazol-4-yl]-2-cyclopentyloxyiminoacetic acid | 1.6 g | FC(C(=O)NC=1SC=C(N1)C(C(=O)O)=NOC1CCCC1)(F)F | C12H12F3N3O4S
reactant | phosphoryl chloride | 0.8 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 7-amino-3-[1-(2-hydroxyethyl)-1H-tetrazol-5-yl-thiomethyl]-3-cephem-4-carboxylic acid | 1.5 g | NC1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2CCO)C(=O)O)C1=O | C11H14N6O4S2
reactant | trimethylsilylacetamide | 3.8 g | C[Si](C)(C)CC(=O)N | C5H13NOSi
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 1.6 ml | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 0.4 g | CN(C=O)C | C3H7NO
product | 7-[2-[2-(2,2,2-trifluoroacetamido)thiazol-4-yl]-2-cyclopentyloxyiminoacetamido]-3-[1-(2-hydroxyethyl)-1H-tetrazol-5-ylthiomethyl]-3-cephem-4-carboxylic acid | 2.63 g | FC(C(=O)NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)C(CCO)SC2=NN=NN2)C(=O)O)C1=O)=NOC1CCCC1)(F)F | C23H24F3N9O7S3
